US05175157
2-[(N-(3-(3,4-Dimethoxy-phenoxy)-propyl)-piperid-3-yl)-methyl]-6,7-dimethoxy-1-oxo-1,2,3,4-tetrahydro-isoquinoline-hydrochloride
Prepared from 2-[(piperidin-3-yl)-methyl]-6,7-dimethoxy-1-oxo-1,2,3,4-tetrahydro-isoquinoline and 1-chloro-3-(3,4-dimethoxy-phenoxy)-propane analogously to Example 1.

reactant | 2-[(piperidin-3-yl)-methyl]-6,7-dimethoxy-1-oxo-1,2,3,4-tetrahydro-isoquinoline | N1CC(CCC1)CN1C(C2=CC(=C(C=C2CC1)OC)OC)=O | C17H24N2O3
reactant | 1-chloro-3-(3,4-dimethoxy-phenoxy)-propane | ClCCCOC1=CC(=C(C=C1)OC)OC | C11H15ClO3
product | 2-[(N-(3-(3,4-Dimethoxy-phenoxy)-propyl)-piperid-3-yl)-methyl]-6,7-dimethoxy-1-oxo-1,2,3,4-tetrahydro-isoquinoline-hydrochloride | Cl.COC=1C=C(OCCCN2CC(CCC2)CN2C(C3=CC(=C(C=C3CC2)OC)OC)=O)C=CC1OC | InChI=1S/C28H38N2O6.ClH/c1-32-24-9-8-22(16-26(24)34-3)36-14-6-12-29-11-5-7-20(18-29)19-30-13-10-21-15-25(33-2)27(35-4)17-23(21)28(30)31;/h8-9,15-17,20H,5-7,10-14,18-19H2,1-4H3;1H
